US07420066B2
Step 2: Preparation of 3-[2-(2,4-dichlorobenzyl-3-methyl-1benzofuran-6-yl]benzamide
To a solution of (2,4-dichlorophenyl)-[3-methyl-6-(4,4,5,5-tetramethyl[1,3,2]dioxaborolan-2-yl)-benzofuran-2-yl]-methanone (100 mg, 0.23 mmol) in toluene (4 mL) and ethanol (4 mL) was added 3-bromobenzamide (56 mg, 0.28 mmol) followed by [1,1′-bis(diphenylphosphino)ferrocene]dichloro-palladium (II), complex with dichloromethane (1:1) (17 mg, 0.02 mmol) and 2M aqueous Na2CO3 (0.29 mL, 0.58 mmol). The mixture was degassed under vacuum, then heated to 85 C for 2 h. The reaction mixture was concentrated in vacuo, diluted in methanol, and filtered through a syringe filter. Purification by prep-HPLC provided the desired material as a white solid (41.3 mg, 42%). 1H-NMR (CDCl3) δ 8.02 (t, J=1.9 Hz, 1H), 7.71-7.67 (m, 3H), 7.61 (m, 1H), 7.52 (dd, J=1.4, 8.4 Hz, 1H), 7.46 (t, J=7.7 Hz, 1H), 7.43 (d, J=2.0 Hz, 1H), 7.39 (m, 1H), 7.31 (ddd, J=8.1, 1.9, 0.2 Hz, 1H), 2.54 (s, 3H).

reactant | (2,4-dichlorophenyl)-[3-methyl-6-(4,4,5,5-tetramethyl[1,3,2]dioxaborolan-2-yl)-benzofuran-2-yl]-methanone | 0.23 mmol, 100 mg | ClC1=C(C=CC(=C1)Cl)C(=O)C=1OC2=C(C1C)C=CC(=C2)B2OC(C(O2)(C)C)(C)C | C22H21BCl2O4
reactant | 3-bromobenzamide | 0.28 mmol, 56 mg | BrC=1C=C(C(=O)N)C=CC1 | C7H6BrNO
reactant | dichloromethane | 0.02 mmol, 17 mg | ClCCl | CH2Cl2
reactant | Na2CO3 | 0.58 mmol, 2M, 0.29 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 4 mL | C(C)O | C2H6O
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloro-palladium (II) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-(2,4-dichlorobenzyl-3-methyl-1benzofuran-6-yl]benzamide | 41.3 mg, 42% | ClC1=C(CC=2OC3=C(C2C)C=CC(=C3)C3=C(C(=O)N)C=CC=C3)C=CC(=C1)Cl | C23H17Cl2NO2
